US08957205B2
2-(Phenylmethyl)-3-oxa-1-azaspiro[4.5]dec-1-en-4-one
633 mg (3.3 mmol) of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride was added to a solution of 784 mg (3 mmol) of 1-[(phenylacetyl)amino]cyclohexanecarboxylic acid obtained in Reference example 2 in 20 ml of methylene chloride. After the mixture was stirred at room temperature for 4 hours, the reaction solution was concentrated under reduced pressure, ethyl acetate was added thereto, and the mixture was successively washed with water, a 10% aqueous potassium hydrogensulfate solution, a saturated aqueous sodium hydrogencarbonate solution and saturated brine, followed by drying with anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to obtain 625 mg (86%) of the title compound.

reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 3.3 mmol, 633 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-[(phenylacetyl)amino]cyclohexanecarboxylic acid | 3 mmol, 784 mg | C1(=CC=CC=C1)CC(=O)NC1(CCCCC1)C(=O)O | C15H19NO3
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 2-(Phenylmethyl)-3-oxa-1-azaspiro[4.5]dec-1-en-4-one | 625 mg, 86% | C1(=CC=CC=C1)CC1=NC2(C(O1)=O)CCCCC2 | C15H17NO2
